US04228177
(b) 6-Chloro-2,3-dihydro-3-(1H-imidazol-1-ylmethylene)-4H-benzo[b]-thiopyran-4-one
Following the procedure according to Example 1b, 6-chloro-2,3-dihydro-3-(hydroxymethylene)-4H-benzo[b]-thiopyran-4-one is reacted with carbonyl-bis-imidazole to obtain the title compound, m.p. 139°-141° C. (acetonitrile).

reactant | 6-chloro-2,3-dihydro-3-(hydroxymethylene)-4H-benzo[b]-thiopyran-4-one | ClC1=CC2=C(SCC(C2=O)=CO)C=C1 | C10H7ClO2S
reactant | carbonyl-bis-imidazole | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-Chloro-2,3-dihydro-3-(1H-imidazol-1-ylmethylene)-4H-benzo[b]-thiopyran-4-one | ClC1=CC2=C(SCC(C2=O)=CN2C=NC=C2)C=C1 | C13H9ClN2OS
